US05663200
47b) 2,3,4-Trimethoxybenzyl iodide
46.64 g (215.2 mmol) of 2,3,4-trimethoxybenzyl chloride in 466 ml of abs. acetone are treated with 156.7 g (4.86 equivalents) of sodium iodide, and this mixture is stirred at RT for 2.75 h while excluding light. The reaction mixture is treated with approximately 3 l of (cold) ether, and the organic phase is washed once with 10 sodium thiophosphate solution and twice with saline (both kinds of solutions being cold). The combined aqueous phases are reextracted with ether. The combined organic phases are dried over Na2SO4 and evaporated on a RE at approximately 30° C. The residue, which is the desired title compound, is dried again under HV and subjected to further processing as a crude product. 1H-NMR (200 MHz, CDCl3): 7.03 and 6.59 (each d; each 1H); 4.47 (s, 2H); 4.05, 3.85 and 3.84 (each s, each 3H).

reactant | 2,3,4-trimethoxybenzyl chloride | 215.2 mmol, 46.64 g | COC1=C(CCl)C=CC(=C1OC)OC | C10H13ClO3
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium iodide | 156.7 g, 4.86 equivalents | [I-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2,3,4-Trimethoxybenzyl iodide | COC1=C(CI)C=CC(=C1OC)OC | C10H13IO3
